US07192943B2
To a solution of 4-methoxybenzyl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate (1.0 g) in N,N-dimethylformamide (3 ml) was added N-(trimethylsilyl)acetamide (965 mg) and the mixture was stirred at room temperature for 30 minutes. To the solution was added potassium iodide (341 mg) and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added tert-butyl (4S)-4-{[2-(tert-butoxycarbonylamino)acetyl]amino}-5-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-5-oxopentylcarbamate (1.27 g), and the whole mixture was stirred at 40° C. for 4 hours. To the reaction mixture was added ethyl acetate (100 ml) and the mixture was washed successively with brine (50 ml), 10% aqueous sodium trifluoroacetate solution (50 ml) and brine (50 ml), dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated to about 5 ml in vacuo. The concentrate was poured into diisopropyl ether (120 ml) and the resulting precipitate was collected by filtration and dried in vacuo. To a solution of the solid in methylene chloride (4.5 ml) were added anisole (1.5 ml) and trifluoroacetic acid (3.0 ml). The resulting solution was stirred at room temperature for 16 hours and poured into diisopropyl ether (120 ml). The resulting precipitate was collected by filtration and dried in vacuo to give a crude product (1.42 g), which was purified by preparative HPLC utilizing ODS column. The eluate containing a desired product was concentrated to about 20 ml in vacuo. The concentrate was further purified by preparative HPLC utilizing ODS column eluting with 8% acetonitrile/water. The eluate was concentrated to about 10 ml in vacuo. The resulting solution was lyophilized to give 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[3-amino-4-({(2S)-5-amino-2-[(aminoacetyl)amino]pentanoyl}amino)-2-methyl-1-pyrazolio]methyl-3-cephem-4-carboxylate (46.3 mg) as an amorphous solid.

reactant | 4-methoxybenzyl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 1.0 g | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C28H33ClN6O8S2
reactant | N-(trimethylsilyl)acetamide | 965 mg | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | potassium iodide | 341 mg | [I-].[K+]
reactant | tert-butyl (4S)-4-{[2-(tert-butoxycarbonylamino)acetyl]amino}-5-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-5-oxopentylcarbamate | 1.27 g | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H](CCCNC(OC(C)(C)C)=O)C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C40H51N7O6
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[3-amino-4-({(2S)-5-amino-2-[(aminoacetyl)amino]pentanoyl}amino)-2-methyl-1-pyrazolio]methyl-3-cephem-4-carboxylate | 46.3 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=C(C2)NC([C@H](CCCN)NC(CN)=O)=O)N)C)C(=O)[O-])C1=O)=N/OC(C)(C)C(=O)O | C27H37N13O9S2
